US05824507
Bacterial cells were harvested by centrifugation and resuspended in SDS sample buffer (0.0625M Tris, pH 6.8, 10% glycerol, 5% mercaptoethanol, 2.3% SDS). The resuspended pellet was boiled for 5 min. and then cleared of insoluble cellular debris by centrifugation. The supernatants obtained from IPTG-induced cultures of GE3-2, GE9-2, GE15-1, GE17-2, GE4-8, EXP3-7, GE1-N and GE57 were analyzed by SDS-polyacrylamide gel electrophoresis (PAGE) together with uninduced lysates. The proteins from these gels were then transferred to nitrocellulose filters (i.e., by Western blotting).

reactant | Tris | 0.0625M | C(C(CO)(CO)N)O | C4H11NO3
reactant | glycerol | pH 6.8 | OCC(O)CO | C3H8O3
reactant | mercaptoethanol | SC(C)O | C2H6OS
reactant | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
product | IPTG | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
